US06627630B1
Production of 7-t-Butyl-6-[2-[2-[4-(Diphenylmethyl)-1-piperazinyl]ethoxy]ethoxy][1,2,4]triazolo[1,5-b]pyridazine Dihydrochloride
150 mg of 60% sodium hydride in oil was suspended in 20 ml of tetrahydrofuran; 1.05 g of [2-[4-(diphenylmethyl)-1-piperazinyl]ethoxy]ethanol was added, followed by heating and refluxing for 1 hour. After cooling, 650 mg of 7-t-butyl-6-chloro[1,2,4]triazolo[1,5-b]pyridazine was added, followed by heating and refluxing for 2 hours. After cooling, ice water was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol (10:1). The desired fraction was collected; the residue was dissolved in 5 ml of ethyl acetate; 2.1 ml of a 4N hydrogen chloride solution in ethyl acetate was added; the crystal precipitated was collected by filtration, washed with ethyl ether and dried to yield 1.55 g of the title compound.

reactant | sodium hydride | 150 mg | [H-].[Na+]
reactant | [2-[4-(diphenylmethyl)-1-piperazinyl]ethoxy]ethanol | 1.05 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCOC(C)O)C1=CC=CC=C1 | C21H28N2O2
reactant | 7-t-butyl-6-chloro[1,2,4]triazolo[1,5-b]pyridazine | 650 mg | C(C)(C)(C)C1=CC=2N(N=C1Cl)N=CN2 | C9H11ClN4
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 7-t-Butyl-6-[2-[2-[4-(Diphenylmethyl)-1-piperazinyl]ethoxy]ethoxy][1,2,4]triazolo[1,5-b]pyridazine Dihydrochloride | 1.55 g | Cl.Cl.C(C)(C)(C)C1=CC=2N(N=C1OCCOCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)N=CN2 | InChI=1S/C30H38N6O2.2ClH/c1-30(2,3)26-22-27-31-23-32-36(27)33-29(26)38-21-20-37-19-18-34-14-16-35(17-15-34)28(24-10-6-4-7-11-24)25-12-8-5-9-13-25;;/h4-13,22-23,28H,14-21H2,1-3H3;2*1H
